US07977338B2
A mixture of 1.5 ml of 2-nitrofluorobenzene (Aldrich), 1.44 g of 4-aminophenyl acetic acid and 0.550 g of KF is stirred at 170° C. for 16 hours in a sealed tube. The mixture obtained is allowed to cool to rt, triturated in CH2Cl2/MeOH (95:5) and filtered. The filtrate obtained is concentrated and the concentrate obtained is purified by silica gel column chromatography. [4-(2-Nitro-phenylamino)-phenyl]-acetic acid is obtained in the form of a solid: ES-MS: 273.0 [M+H]+; single peak at tR=4.44 min (System 1); Rf=0.20 (CH2Cl2/MeOH, 95:5).

reactant | 2-nitrofluorobenzene | 1.5 ml | [N+](=O)([O-])C1=C(C=CC=C1)F | C6H4FNO2
reactant | 4-aminophenyl acetic acid | 1.44 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | KF | 0.550 g | [F-].[K+]
product | [4-(2-Nitro-phenylamino)-phenyl]-acetic acid | [N+](=O)([O-])C1=C(C=CC=C1)NC1=CC=C(C=C1)CC(=O)O | C14H12N2O4
